US07524840B2
5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one (Ib) was prepared from 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one (Id) by reaction with zinc cyanide in the presence of a palladium catalyst (tetrakistriphenyl phosphine palladium) according to conditions similar to those described by Tschaen et al., Synthetic Communications, 24:887-90 (1994). A mixture of 0.9491 g (0.0025 mole) of 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one (Id), 0.176 g (0.0015 mole) of zinc cyanide, 4 mL of dimethylformamide and 0.289 g (0.00025 mole) of tetrakistriphenyl phosphine palladium was heated at 110° C. under an argon atmosphere for 24 hours. The mixture was then cooled, taken up in ethyl acetate and washed with 0.2 M sodium carbonate solution. The aqueous phase was reextracted with ethyl acetate, and the ethyl acetate layers washed with water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate-hexane (4:1) to give 0.620 g of 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one (Ib). MH+/Z=326.

reactant | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)OC | C16H12BrClN2O2
reactant | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one | 0.0025 mole, 0.9491 g | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)OC | C16H12BrClN2O2
reactant | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | palladium | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc cyanide | 0.0015 mole, 0.176 g | [C-]#N.[Zn+2].[C-]#N
product | 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one | 0.620 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OC)C#N)=O | C17H12ClN3O2
